US04514212
(a) N-[2-(2-Chloroethoxy)-phenylsulfonyl]-N'-methyl-urea
5.9 g of triethylamine is added dropwise to a suspension of 11.0 g of 2-(2-chloroethoxy)-phenylsulfonamide, 50 ml of methylene chloride and 3.3 g of methyl isocyanate within 10 minutes at a temperature of 20°-25° C. The resulting clear solution is stirred for a further hour at room temperature and evaporated to dryness. The residue is solved in 5% aqueous sodium carbonate. After acidification of this solution with 10% hydrochloric acid 12.5 g of N-[2-(2-chloroethoxy)-phenylsulfonyl]-N'-methylurea precipitate therefrom, m.p. 218°-222° C.

reactant | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
reactant | 2-(2-chloroethoxy)-phenylsulfonamide | 11.0 g | ClCCOC1=C(C=CC=C1)S(=O)(=O)N | C8H10ClNO3S
reactant | methyl isocyanate | 3.3 g | CN=C=O | C2H3NO
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-[2-(2-Chloroethoxy)-phenylsulfonyl]-N'-methyl-urea | ClCCOC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC | C10H13ClN2O4S
